US03944679
The above-described aromataic composition of the present process is added in an amount of 1 ppm to the material flour of cakes, and this flour is baked to make cakes. Likewise, a 5 % ethanol solution of the mixture (in the ratio 10:7) of 3-ethyl-5,6-methylenedioxyindan-1-one and 3,4-dimethyl-7-methoxyindan-1-one is added to the material flour but in an amount to give 10 ppm by weight of said indanone compounds mixture thereto, and this material is baked.

reactant | 3-ethyl-5,6-methylenedioxyindan-1-one | C(C)C1CC(C2=CC3=C(C=C12)OCO3)=O | C12H12O3
reactant | 3,4-dimethyl-7-methoxyindan-1-one | CC1CC(C2=C(C=CC(=C12)C)OC)=O | C12H14O2
solvent | ethanol | C(C)O | C2H6O
product | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
